US07465731B2
To a solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-nitrophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (297 mg) in ethanol (3 mL) was added tin(II) chloride (583 mg), and the mixture was heated at reflux for 6 hours. After cooling, the reaction mixture was basified with 2N sodium hydroxide and extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(6-{[(3R)-1-(4-aminophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (186 mg).

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-nitrophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 297 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C25H30N4O6
reactant | tin(II) chloride | 583 mg | [Sn](Cl)Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | ethyl (2E)-3-(6-{[(3R)-1-(4-aminophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 186 mg | NC1=CC=C(C=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C20H24N4O2
